US03957989
2,7-BIS[2-(N-METHYLCYCLOHEXYLAMINO)ACETYL]XANTHENE DIHYDROCHLORIDE HYDRATE
A mixture of 33.5 g (0.1 mole) of 2,7-bis(2-chloroacetyl)-xanthene, 2 g of potassium iodide, 50.6 g (0.5 mole) of N-methylcyclohexylamine and 500 ml. of tetrahydrofuran was allowed to stand for seven days at room temperature, then filtered. The filtrate was evaporated to dryness, and the residue was cooled, then dissolved in 5% HCl and filtered. The filtrate was made alkaline and the product was extracted with methylene chloride, evaporated to a small volume, cooled, and acidified with ethereal HCl to Congo Red. The solid was filtered off and recrystallized four times from methanol-diethyl ether. After drying in vacuo and hydrating in a constant humidity chamber, the desired product was obtained. M.P. 203°-206°C.

reactant | 2,7-bis(2-chloroacetyl)-xanthene | 0.1 mole, 33.5 g | ClCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCl)=O | C17H12Cl2O3
reactant | potassium iodide | 2 g | [I-].[K+]
reactant | N-methylcyclohexylamine | 0.5 mole, 50.6 g | CNC1CCCCC1 | C7H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,7-BIS[2-(N-METHYLCYCLOHEXYLAMINO)ACETYL]XANTHENE DIHYDROCHLORIDE HYDRATE | O.Cl.Cl.CN(CC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CN(C)C1CCCCC1)=O)C1CCCCC1 | InChI=1S/C31H40N2O3.2ClH.H2O/c1-32(26-9-5-3-6-10-26)20-28(34)22-13-15-30-24(17-22)19-25-18-23(14-16-31(25)36-30)29(35)21-33(2)27-11-7-4-8-12-27;;;/h13-18,26-27H,3-12,19-21H2,1-2H3;2*1H;1H2
